US07576203B2
Under cooling with ice, methanesulfonyl chloride (31.7 g, 276.7 mmol) was added dropwise to a solution of N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]-2-hydroxyacetamide (65.0 g, 251.6 mmol), triethylamine (30.5 g, 301.4 mmol), and 4-dimethylaminopyridine (3.07 g, 25.13 mmol) in DMF (455 mL) while the reaction mixture was maintained at 11° C. or lower, followed by stirring for 0.5 hours under cooling with ice. After HPLC was performed to confirm that starting materials had been completely consumed, the crystals (triethylamine hydrochloride) that precipitated were collected through filtration, followed by washing with DMF (195 mL). The filtrate and the wash liquid were combined, and sodium bromide (51.8 g, 503.5 mmol) was added to the resultant mixture. The reaction mixture was stirred under heat at an internal temperature of 55 to 60° C. for 3 hours. Subsequently, water (650 mL) was added to the reaction mixture, and the resultant mixture was stirred at an internal temperature of 21 to 25° C. for 2 hours. The crystals that precipitated were collected through filtration, followed by washing with water and drying through air blow. The crude target product was dissolved in methanol (500 mL) through heating, and the reaction mixture was cooled. The crystals that precipitated were collected through filtration, followed by drying through air blow at 60° C., to thereby yield N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]-2-bromoacetamide (54.38 g, yield: 67.3%, HPLC: 99.32%).

reactant | methanesulfonyl chloride | 276.7 mmol, 31.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]-2-hydroxyacetamide | 251.6 mmol, 65.0 g | CSC1=NC(=CC(=C1NC(CO)=O)SC)C | C10H14N2O2S2
reactant | triethylamine | 301.4 mmol, 30.5 g | C(C)N(CC)CC | C6H15N
reactant | sodium bromide | 503.5 mmol, 51.8 g | [Br-].[Na+]
catalyst | 4-dimethylaminopyridine | 25.13 mmol, 3.07 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 455 mL | CN(C)C=O | C3H7NO
solvent | water | 650 mL | O | H2O
product | N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]-2-bromoacetamide | 54.38 g, yield: 67.3% | CSC1=NC(=CC(=C1NC(CBr)=O)SC)C | C10H13BrN2OS2
